US05457099
4-(2-bromoethyl)-8-(1-methylethyl)-2(1H)-quinolinone (II-15).
In addition, 4-bromomethyl-2(1H)-quinolinone (II-1), 4-(2-bromoethyl)-2(1H)-quinolinone (II-2) and 4-(3-bromopropyl)-2(1H)-quinolinone (II-3) were prepared according to Chemical and Pharmaceutical Bull., 33(9), 3775-3786(1985).

reactant | 4-bromomethyl-2(1H)-quinolinone | BrCC1=CC(NC2=CC=CC=C12)=O | C10H8BrNO
reactant | 4-(2-bromoethyl)-2(1H)-quinolinone | BrCCC1=CC(NC2=CC=CC=C12)=O | C11H10BrNO
reactant | 4-(3-bromopropyl)-2(1H)-quinolinone | BrCCCC1=CC(NC2=CC=CC=C12)=O | C12H12BrNO
product | 4-(2-bromoethyl)-8-(1-methylethyl)-2(1H)-quinolinone | BrCCC1=CC(NC2=C(C=CC=C12)C(C)C)=O | C14H16BrNO
